US05223506
Using the procedure of Example 1, 4-benzoxy-5-methoxyindan-1-one (mg, 2 mmol) is reacted with 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine (510 mg, 2 mmol) to yields 8-methoxy-9-hydroxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline (308 mg, 38.7% of theory) which is used as a starting material for part (B).

reactant | 4-benzoxy-5-methoxyindan-1-one | 2 mmol | C(C1=CC=CC=C1)OC1=C2CCC(C2=CC=C1OC)=O | C17H16O3
reactant | 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine | 2 mmol, 510 mg | CC1=CC=C(C=C1)N=CC=1C(=CC2=C(OCO2)C1)N | C15H14N2O2
product | 8-methoxy-9-hydroxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline | 308 mg, 38.7% | COC1=C(C=2CC=3C(=NC=4C=C5C(=CC4C3)OCO5)C2C=C1)O | C18H13NO4
